US09226916B2
f) rac-{(3R,4S)-4-(3,4-Dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid tert-butyl ester
To a solution of rac-[(3R,4S)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester (2.78 g, 7.56 mmol) in DMF (28 mL) were added at 0° C. N,N-diisopropyl ethyl amine (8.26 mL, 48.2 mmol), 1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid (2.78 g, 8.04 mmol), 0-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (3.67 g, 9.65 mmol). The resulting solution was stirred for 6 h at ambient temperature. After diluting with EtOAc (50 mL) the solution was washed twice with water (50 mL) and brine (50 mL). The aqueous layers were extracted with EtOAc (50 mL) and dried over sodium sulfate. Concentration and purification by chromatography (SiO2, heptane:ethyl acetate:methanol=80:20:0 to 0:90:10) afforded the title compound (3.06 g, 75%) as a light brown foam. MS m/e: 538.3 [M+H]+.

reactant | rac-[(3R,4S)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester | 7.56 mmol, 2.78 g | C(C)(C)(C)OC(N(C)[C@H]1CNC[C@@H]1C1=CC(=C(C=C1)Cl)Cl)=O | C16H22Cl2N2O2
reactant | N,N-diisopropyl ethyl amine | 48.2 mmol, 8.26 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid | 8.04 mmol, 2.78 g | CC1(CC1)C(=O)N1CCC(CC1)C(=O)O | C11H17NO3
reactant | 0-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 9.65 mmol, 3.67 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 28 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | rac-{(3R,4S)-4-(3,4-Dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid tert-butyl ester | 3.06 g, 75% | C(C)(C)(C)OC(N(C)[C@H]1CN(C[C@@H]1C1=CC(=C(C=C1)Cl)Cl)C(=O)C1CCN(CC1)C(=O)C1(CC1)C)=O | C27H37Cl2N3O4
